US07799779B2
a) 4-Cyano-3,5-dimethylphenylboronic acid
4.55 ml of n-butyllithium solution (1.6M in hexane) are added dropwise to a solution of 1.39 g of 4-bromo-2,6-dimethylbenzonitrile in 25 ml of dry tetrahydrofuran at −78° C. After stirring at this temperature for 20 minutes, 1.88 ml of triisopropyl borate are added. After 45 minutes, 15 ml of 1N aqueous HCl are added to the reaction mixture, which is warmed to room temperature. The phases are separated and the aqueous phase is extracted three more times with 100 ml of diethyl ether/tetrahydrofuran (1:1) each time. The combined organic phases are dried with sodium sulphate, filtered and concentrated to 4 ml in vacuo. The remaining oil is mixed with 50 ml of pentane, and the precipitate which has separated out is filtered off with suction and washed twice with pentane. Drying under high vacuum results in the title compound as a beige solid. Rt=3.20.

reactant | n-butyllithium | 1.6M, 4.55 ml | C(CCC)[Li]
reactant | 4-bromo-2,6-dimethylbenzonitrile | 1.39 g | BrC1=CC(=C(C#N)C(=C1)C)C | C9H8BrN
reactant | triisopropyl borate | 1.88 ml | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | 1N, 15 ml | Cl | ClH
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 4-Cyano-3,5-dimethylphenylboronic acid | C(#N)C1=C(C=C(C=C1C)B(O)O)C | C9H10BNO2
